US07312330B2
A. 7-Benzyl-5,6,7,8-tetrahydro-N-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)pyrido[3,4-d]pyrimidin-4-amine
The title compound was prepared using the general procedure set forth in Example 2, above, using 2,3-dihydrobenzo[b][1,4]dioxin-6-amine (0.32 mL, 2.63 mmol) and 7-benzyl-4-chloro-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (0.621 g, 2.39 mmol) in acetonitile (3 mL).

reactant | 2,3-dihydrobenzo[b][1,4]dioxin-6-amine | 2.63 mmol, 0.32 mL | O1C2=C(OCC1)C=C(C=C2)N | C8H9NO2
reactant | 7-benzyl-4-chloro-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 2.39 mmol, 0.621 g | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)Cl | C14H14ClN3
solvent | acetonitile | 3 mL | C(C)#N | C2H3N
product | 7-Benzyl-5,6,7,8-tetrahydro-N-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)pyrido[3,4-d]pyrimidin-4-amine | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)NC1=CC2=C(OCCO2)C=C1 | C22H22N4O2
